US06521643B1
To a solution of 2-chloro-1-(4-methylpyridin-2-yl)propan-1-one (0.4 g) in ethanol (5 ml) was added 2-imino-4-thiobiuret (257 mg). The mixture was refluxed for 2 hours, and the solvent was evaporated under reduced pressure. To the residue were added ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution. The ethyl acetate layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, dichloromethane:methanol:triethylamine=80:10:1) to give 2-guanidino-5-methyl-4-(4-methylpyridin-2-yl)thiazole (402 mg).

reactant | 2-chloro-1-(4-methylpyridin-2-yl)propan-1-one | 0.4 g | ClC(C(=O)C1=NC=CC(=C1)C)C | C9H10ClNO
reactant | 2-imino-4-thiobiuret | 257 mg | C(=NC(=S)N)(N)N | C2H6N4S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-guanidino-5-methyl-4-(4-methylpyridin-2-yl)thiazole | 402 mg | N(C(=N)N)C=1SC(=C(N1)C1=NC=CC(=C1)C)C | C11H13N5S
